US07939526B2
Triethyl orthoformate (2 mL, 12 mmol) was added to a stirred solution of N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine (3.1 g, 10 mmol) in acetonitrile (50 mL). Pyridine hydrochloride (0.3 g) was added and the reaction mixture was heated to reflux with the volatiles being collected in a Dean Stark trap. After 20 minutes analysis by TLC indicated that the starting material was consumed. The reaction mixture was concentrated under reduced pressure to provide a viscous oil. The oil was triturated with ethyl acetate. The resulting solid was isolated by filtration and washed with ethyl acetate to provide 2.17 g of 1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline as an off-white powder.

reactant | Triethyl orthoformate | 12 mmol, 2 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine | 10 mmol, 3.1 g | CS(=O)(=O)CCOCCNC1=C(C=NC2=CC=CC=C12)N | C14H19N3O3S
reactant | Pyridine hydrochloride | 0.3 g | Cl.N1=CC=CC=C1
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline | 2.17 g | CS(=O)(=O)CCOCCN1C=NC=2C=NC=3C=CC=CC3C21 | C15H17N3O3S
